US07858800B2
2) Production of tert-butyl 4-(5-phenyl-[1,2,4]oxa-diazol-3-yl)-piperazine-1-carboxylate
tert-Butyl 4-(N-hydroxyamidino)-piperazine-1-carboxylate (200 mg) prepared in the above 1) was dissolved in 10 ml of toluene, 2.0 g of benzoic acid anhydride was added thereto and the mixture was stirred at 100° C. for 4 hours. The reaction solution was diluted with ethyl acetate, washed with aqueous ammonia and then with a saturated saline solution and dried over sodium sulfate. The residue prepared by evaporation of the solvent was purified by a preparative thin-layer silica gel chromatography (hexane:ethyl acetate=1:1) to give 13.7 mg of the title compound as a white solid.

reactant | tert-Butyl 4-(N-hydroxyamidino)-piperazine-1-carboxylate | 200 mg | ONC(=N)N1CCN(CC1)C(=O)OC(C)(C)C | C10H20N4O3
reactant | benzoic acid anhydride | 2.0 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(5-phenyl-[1,2,4]oxa-diazol-3-yl)-piperazine-1-carboxylate | 13.7 mg | C1(=CC=CC=C1)C1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H22N4O3
